US04985444
To a mixture of 3-(2-aminopyrimidin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.70 g) and 50% sulfuric acid (5.6 ml) was gradually added aqueous solution (5.6 ml) of sodium nitrite (1.68 g) at 5° to 10° C., and the resultant mixture was stirred for 3 hours at the same temperature and then for 2 hours at room temperature. To the reaction mixture was added water (14 ml). The precipitates were collected by filtration subjected to a column chromatography on silica gel (14 g) with a mixture of chloroform and methanol (10:1) as an eluent. The fractions containing the objective compound were combined and the solvent was evaporated in vacuo to give 3-(2-oxo-1,2-dihydropyrimidin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.44 g).

reactant | 3-(2-aminopyrimidin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.70 g | NC1=NC=C(C=N1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H13N5
reactant | sulfuric acid | 5.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 5.6 ml, 1.68 g | N(=O)[O-].[Na+]
solvent | water | 14 ml | O | H2O
product | 3-(2-oxo-1,2-dihydropyrimidin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.44 g | O=C1NC=C(C=N1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H12N4O
